US06528510B1
(2-tert-Butyoxycarbonylamino-4-isopropyl-5-mercapto-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared according to General Method 14b using (2-tert-butyoxycarbonylamino-4-isopropyl-5-thiocyanato-phenyl)-carbamic acid tert-butyl ester (prepared in Example SS-1; 9 g, 22 mmol), sodium hydrogen sulfide (3.7 g, 66 mmol), sodium borohydride (5.02 g, 132 mmol), MeOH (20 mL), H2O (5 mL), and AcOH (2 mL). The crude product was used without any purification. MS(APCI): 381 (M−H).

reactant | (2-tert-butyoxycarbonylamino-4-isopropyl-5-thiocyanato-phenyl)-carbamic acid tert-butyl ester | 22 mmol, 9 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)SC#N)C(C)C)NC(=O)OC(C)(C)C)=O | C20H29N3O4S
reactant | sodium hydrogen sulfide | 66 mmol, 3.7 g | S.[Na]
reactant | sodium borohydride | 132 mmol, 5.02 g | [BH4-].[Na+]
reactant | MeOH | 20 mL | CO | CH4O
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | H2O | 5 mL | O | H2O
product | (2-tert-Butyoxycarbonylamino-4-isopropyl-5-mercapto-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)S)C(C)C)NC(=O)OC(C)(C)C)=O | C19H30N2O4S
